### PR TITLE
middle four exchange law in a `Setoid`: definition and consequences

### PR DESCRIPTION
**Pull request by jamesmckinna**
```agda
_MiddleFourExchange_ : Op₂ A → Op₂ A → Set _
_*_ MiddleFourExchange _+_ =  ∀ w x y z → ((w + x) * (y + z)) ≈ ((w + y) * (x + z))
```

UPDATED: hmmm... naming conventions between `Algebra.Consequences.Setoid` and  `Algebra.Consequences.Propositional`: may wish to remove `cong+` prefixes? DONE.

### CODE REVIEW

**Review by JacquesCarette — APPROVED** [review]

File: src/Algebra/Consequences/Propositional.agda [hunk 1]
```diff
@@ -83,13 +86,27 @@ module _ {_•_ _◦_ : Op₂ A} (•-comm : Commutative _•_) where
   comm⇒sym[distribˡ] = Base.comm⇒sym[distribˡ] (cong₂ _◦_) •-comm
 
 ------------------------------------------------------------------------
--- Selectivity
+-- Selectivity and Middle-Four Exchange
```
Comment (MatthewDaggitt) [inline src/Algebra/Consequences/Propositional.agda:89]: I think it would be better to give `Middle-Four Exchange` it's own heading. I'm not sure it should be combined with selectivity?

File: src/Algebra/Consequences/Setoid.agda [hunk 2]
```diff
@@ -29,6 +29,40 @@ open import Relation.Unary using (Pred)
 
 open import Algebra.Consequences.Base public
 
+------------------------------------------------------------------------
+-- Congruence and MiddleFourExchange
```
Comment (MatthewDaggitt) [inline src/Algebra/Consequences/Setoid.agda:33]: Likewise, I'm not sure `Congruence` should be in the title here. The proofs aren't about congruence per se.

File: CHANGELOG.md [hunk 3]
```diff
@@ -1603,6 +1603,15 @@ Other minor changes
...
 * Added new proofs to `Algebra.Consequences.Setoid`:
   ```agda
+  comm+assoc⇒middleFour : Congruent₂ _•_ → Commutative _•_ → Associative _•_ →
+                           _•_ MiddleFourExchange _•_
+  identity+middleFour⇒assoc : Congruent₂ _•_ → Identity e _•_ →
+                               _•_ MiddleFourExchange _•_ →
+                               Associative _•_
+  identity+middleFour⇒comm : Congruent₂ _•_ → Identity e _+_ →
+                              _•_ MiddleFourExchange _+_ →
+                              Commutative _•_
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:1613]: Missing an entry for the propositional proofs.

**Comment by gallais** [comment]
There's a lot of misaligned type signature, probably due to the fact that
some lemmas were renamed during the preparation of this PR.

Other than that, it looks OK to me.

**Comment by jamesmckinna** [comment]
This must be a common problem, but the alignment still looks off in the GitHub listing, while looks fine in my vanilla default Emacs (GNU Emacs 26.3) font under Linux (Ubuntu 20.04LTS). What is the (FAQ?) recommendation of suitable fixed-width fonts to use in Emacs?

File: src/Algebra/Consequences/Setoid.agda [hunk 4]
```diff
@@ -29,6 +29,40 @@ open import Relation.Unary using (Pred)
...
+    (w • y) • (x • z) ∎
+
+  identity+middleFour⇒assoc : {e : A} → Identity e _•_ →
+                               _•_ MiddleFourExchange _•_ →
+                               Associative _•_
+  identity+middleFour⇒assoc {e} (identityˡ , identityʳ) middleFour x y z = begin
+    (x • y) • z       ≈⟨ cong refl (sym (identityˡ z)) ⟩
+    (x • y) • (e • z) ≈⟨ middleFour x y e z ⟩
+    (x • e) • (y • z) ≈⟨ cong (identityʳ x) refl ⟩
+    x • (y • z) ∎
```
Comment (Taneb) [inline src/Algebra/Consequences/Setoid.agda:54]: The `∎` needs to be indented to match the `≈`s
